US09447033B2
iii) 5-[Benzyl-(3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-sulfonyl)-amino]-2-fluoro-N-isopropyl-benzamide (6)
A solution of 5-benzylamino-2-fluoro-N-isopropyl-benzamide (30 mg, 0.1 mmol), diisopropylethylamine (37 μL, 0.2 mmol), and 3-oxo-3,4-dihydro-2H-1,4-benzooxazine-6-sulfonyl chloride (52 mg, 0.2 mmol) was refluxed in dry dichloromethane (3 ml) for 18 hrs. On cooling, water (10 ml) was added with stirring. The organic layer was separated, dried (PTFE frit), then concentrated in vacuo. The crude residue was purified by preparative TLC (10% v/v ethyl acetate/dichloromethane) to afford the title compound as an off white solid (23 mg). HPLC retention time 7.72 min. Mass spectrum (ES+) m/z 499 (M+H).

reactant | 5-benzylamino-2-fluoro-N-isopropyl-benzamide | 0.1 mmol, 30 mg | C(C1=CC=CC=C1)NC=1C=CC(=C(C(=O)NC(C)C)C1)F | C17H19FN2O
reactant | diisopropylethylamine | 0.2 mmol, 37 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-oxo-3,4-dihydro-2H-1,4-benzooxazine-6-sulfonyl chloride | 0.2 mmol, 52 mg | O=C1COC2=C(N1)C=C(C=C2)S(=O)(=O)Cl | C8H6ClNO4S
reactant | water | 10 ml | O | H2O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 5-[Benzyl-(3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-sulfonyl)-amino]-2-fluoro-N-isopropyl-benzamide | C(C1=CC=CC=C1)N(C=1C=CC(=C(C(=O)NC(C)C)C1)F)S(=O)(=O)C=1C=CC2=C(NC(CO2)=O)C1 | C25H24FN3O5S
